Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization ___

 
History of Present Illness:
___ with CAD s/p PCI to LAD in ___, HTN, HLP, history of pAF 
now spontaneously converted to NSR, presents with chest pain and 
unstable angina.  
 For the past 10 days he has been having left-sided chest 
pressure when he walks up the stairs. No SOB or diaphoresis. He 
called his cardiologist's office several times over the past 
week complaining of exertional chest discomfort radiationg from 
left pectoral muscle to trapezius, occurring more frequently 
with climbing stairs and carry groceries lasting ___ minutes. 
Today he was seen at ___ ED for these complaints and then 
transferred to ___.  
 Troponin-I 0.062 at ___ (unclear reference range). He received 
full dose ASA and 1 inch of nitro paste. He was started on 
heparin gtt with loading dose of 4000u and currently running at 
1000u/hour.  
 In the ED initial vitals were: 99.1 60 139/56 18 97% RA  
 EKG: NSR 59 bpm, normal axis, normal intervals, no ST-T wave 
changes  
 Labs notable for: WBC 9, Hgb 13.2. BUN/Cr ___. K 3.8. TnT 
neg x1.  
 Patient was given: continued on heparin gtt  
 On the floor, patient has no complaints. He is chest pain free. 
Other notable history is that he had an episode of gout ~10 days 
ago and was started on colchicine 0.6mg daily, last dose 
yesterday. He also had a dental procedure today and took 
amoxicillin prior.  
 ROS: +Chest pain as above, otherwise no fever, chills, nausea, 
vomiting, dyspnea, abdominal pain, diarrhea, constipation, 
dysuria, frequency.  

 
Past Medical History:
 -CAD s/p PCI to LAD in ___, with normal coronaries on ___ 
cath, last stress Echo ___ METs EF 55%, trivial MR  
 -Hypertension  
 -Dyslipidemia  
 -Paroxysmal atrial fibrillation that has since spontaneously 
converted to sinus rhythm  
 -Gout 
 
Social History:
___
Family History:
 Mother passed away in ___ at age ___, had angina  
 Father died at age ___, had CAD  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: T97.9 139/68 64 18 97RA 96.3kg  
 GEN: Well appearing male in no distress  
 HEENT: No scleral icterus  
 HEART: RRR, normal S1 S2, no murmurs  
 LUNGS: Clear, no wheezes or rales  
 ABD: Soft, NT ND, normal BS  
 EXT: No ___ edema, 2+ DP pulses  

DISCHARGE PHYSICAL EXAM:  
 VS: 98.1 ___ 18 96% on RA
 Wt: 96.3kg  > 95.5 
 GEN: Well appearing male in no distress  
 HEENT: EOMI, NCAT. 
 HEART: RRR, normal S1 S2, no murmurs  
 LUNGS: CTAB, no wheezes or rales or crackles  
 ABD: Soft, NT ND, normal BS  
 EXT: No ___ edema

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 08:00PM BLOOD WBC-9.0 RBC-4.24* Hgb-13.2* Hct-38.2* 
MCV-90 MCH-31.1 MCHC-34.6 RDW-12.8 RDWSD-41.9 Plt ___
___ 08:00PM BLOOD Neuts-52.2 ___ Monos-8.1 Eos-1.1 
Baso-0.6 Im ___ AbsNeut-4.70 AbsLymp-3.40 AbsMono-0.73 
AbsEos-0.10 AbsBaso-0.05
___ 08:00PM BLOOD ___ PTT-30.1 ___
___ 08:00PM BLOOD Glucose-101* UreaN-16 Creat-0.9 Na-140 
K-3.8 Cl-101 HCO3-25 AnGap-18
___ 08:00PM BLOOD Calcium-9.4 Phos-3.6 Mg-1.8 Cholest-157

==============
PERTINENT LABS
==============
___ 08:00PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD proBNP-29
___ 08:00PM BLOOD Triglyc-181* HDL-31  CHOL/HD-5.1 
LDLcalc-90
___ 12:23AM BLOOD CK-MB-3 cTropnT-<0.01
___ 03:01AM BLOOD CK-MB-9 cTropnT-0.06*
___ 06:55AM BLOOD CK-MB-16* cTropnT-0.25*
___ 12:55PM BLOOD CK-MB-14* cTropnT-0.33*
___ 08:00PM BLOOD Triglyc-181* HDL-31 CHOL/HD-5.1 
LDLcalc-90

=======
IMAGING
=======
___ TTE
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild regional left 
ventricular systolic dysfunction with mild focal hypokinesis of 
the basal to mid anteroseptum. The remaining segments contract 
normally. Overall left ventricular systolic function is normal 
(LVEF>55%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
number of aortic valve leaflets cannot be determined. The aortic 
valve leaflets are mildly thickened (?#). There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. There is no mitral valve 
prolapse. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

 IMPRESSION: Mild symmetric left ventricular hypertrophy. 
Regional left ventricular systolic dysfunction c/w LAD territory 
CAD. Normal right ventricular cavity size and systolic function. 


 Compared with the report of the prior study (images unavailable 
for review) of ___, wall motion abnormality is new. Left 
ventricular hypertrophy is present.

___ Cardiac Catheterization 
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal
* Left Anterior Descending
The LAD had subtotal occlusion just distal to prior stent and 
involving a moderately small diagonal branch
which also had subtotal ostial stenosis
* Circumflex
The Circumflex has no significant disease
* Right Coronary Artery
The RCA has no significant disease. 

Interventional Details
The left main was engaged with a ___ Fr XBLAD 3.5 guide. The LAD 
lesion was crossed with a Prowater
wire and the diagonal lesion with a BMW wire. The LAD was 
dilated with a 2.0 balloon and the diagonal
with a 2.0, then 2.25 NC balloon. The LAD was then stented with 
a 3.0x12 Premier ___ to 3.0
at 18 atm. There was recoil at the ostium of the branch and this 
was crossed with a new BMW wire and
again dilated with the 2.25 NC balloon to 18 atm followed by 
kissing balloon inflations at 8 atm Final
angiography showed no stenosis in the LAD and 30% at the ostium 
of the diagonal with normal flow in
both.

Intra-procedural Complications: None
Impressions:
Successful DES of LAD and PTCA of diagonal
Continued chest pain after procedure with angiography as above 
and no ischemic ECG changes.

Recommendations
Continue aspirin uninterrupted indefinitely and clopidogrel 
minimum ___ year 

==============
DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-9.1 RBC-3.91* Hgb-12.1* Hct-35.1* 
MCV-90 MCH-30.9 MCHC-34.5 RDW-12.8 RDWSD-41.8 Plt ___
___ 06:55AM BLOOD ___ PTT-26.6 ___
___ 06:55AM BLOOD Glucose-98 UreaN-16 Creat-1.0 Na-139 
K-3.8 Cl-103 HCO3-26 AnGap-14
___ 06:55AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.___ with CAD s/p PCI to LAD in ___, HTN, HLP, history of pAF 
that spontaneously converted to NSR, presents with chest pain 
and unstable angina.

#UNSTABLE ANGINA: Patient presented with progressive typical 
angina symptoms over that past week with exertional substernal 
chest pain  that was relieved by rest. Troponin I mildly 
elevated at ___, troponin T negative at ___. EKG w/o ischemic 
changes. He was started on heparin gtt, continued on home 
aspirin, metoprol, and statin. TTE on ___ showed LVEFF 
55-60%, regional LV systolic dysfunction c/w LAD territory CAD 
(new from last TTE in ___. He underwent cardiac 
catheterization that showed 99% mid LAD stenosis, now s/p DES of 
LAD, and 90% of diagonal now s/p PTCA. He had some chest pain 
post-procedure and mild elevation of troponins to peak of 0.33. 
Chest pain resolved by the day after procedure. 

# Hypertension. Stable throughout hospitalization. Continued 
metoprolol, ACEI. Resumed HCTZ on discharge. 

# Hyperlipidemia: continued on statin, increased simvastatin to 
40 qHS post catheterization. Continued on ASA 81

# GERD: continued on omprezaole, transitioned to pantoprazole on 
discharge to avoid interaction with Plavix

# Hx atrial fibrillation: CHADS2 of 1. Spontaneous conversion to 
sinus in the past. Previously on ASA 325, now downtitrated to 81 
ASA  per last clinic note. 

 
TRANSITIONAL ISSUES
===================
- Started on Plavix. Will need to remain on x 12 months or per 
his outpatient cardiologist
- Simvastatin increased to 40 mg qHS. Please recheck LFTs as 
patient reports prior LFT elevation on atorvastatin 
- Omeprazole switched to pantoprazole to avoid possible 
interaction with plavis

 # CODE: Full
 # CONTACT: wife ___ ___  
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. coenzyme Q10 10 mg oral DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lisinopril 30 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Simvastatin 10 mg PO QPM 
6. Omeprazole 20 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Ascorbic Acid Dose is Unknown  PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Simvastatin 40 mg PO QPM 
RX *simvastatin 40 mg 1 tablet(s) by mouth qPM Disp #*30 Tablet 
Refills:*0
5. Ascorbic Acid ___ mg PO DAILY 
6. coenzyme Q10 10 mg oral DAILY 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. Lisinopril 20 mg PO DAILY 
10. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN Chest pain 
RX *nitroglycerin [Nitrostat] 0.4 mg 1 tablet(s) sublingually 
q5min Disp #*15 Tablet Refills:*0
12. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole [Protonix] 40 mg 1 granules(s) by mouth daily 
Disp #*30 Packet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
- coronary artery disease 
- chest pain

SECONDARY
- hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted for 
chest pain.  A cardiac catheterization was performed that showed 
a blockage of one of the arteries of your hearts and a stent was 
placed. You were started on Plavix and your anticholesterol 
medication was increased. Do not stop the aspirin or Plavix 
without talking to your cardiologist. This could be very 
dangerous!

Please also slowly reintroduce cardiovascular exercise after two 
weeks rest. You may also benefit from cardiac rehabilitation. 
Please also do not resume karate until discussion with your 
cardiologist. 

Please follow up with your primary care physician and continue 
your home medications 

Wishing you well,

Your ___ Cardiology Team 
 
Followup Instructions:
___